US08012976B2
To the mixture of 1-propyl-1H-imidazole-2-carbaldehyde (1.1 g, 8.0 mmol) and (E)-4-(benzylideneamino) isobenzofuran-1(3H)-one (1.7 g, 7.2 mmol) were added in ethyl propionate (50 mL) and then sodium methoxide was added under 0° C. The mixture was stirred overnight at room temperature. The mixture was concentrated and the residue was extracted with ethyl acetate (100 mL×4). The organic layer dried over anhydrous sodium sulfate, purified by chromatography (silica gel, petroleum ether/ethyl acetate=10:1 to 1:1) to give ethyl 4-oxo-2-phenyl-3-(1-propyl-1H-imidazol-2-yl)-1,2,3,4-tetrahydroquinoline-5-carboxylate (770 mg, yield 30%). LC-MS (ESI) m/z: 404 (M+1)+.

reactant | 1-propyl-1H-imidazole-2-carbaldehyde | 8.0 mmol, 1.1 g | C(CC)N1C(=NC=C1)C=O | C7H10N2O
reactant | (E)-4-(benzylideneamino) isobenzofuran-1(3H)-one | 7.2 mmol, 1.7 g | C(/C1=CC=CC=C1)=N\C1=C2COC(C2=CC=C1)=O | C15H11NO2
reactant | sodium methoxide | C[O-].[Na+]
reactant | ethyl propionate | 50 mL | C(CC)(=O)OCC | C5H10O2
product | ethyl 4-oxo-2-phenyl-3-(1-propyl-1H-imidazol-2-yl)-1,2,3,4-tetrahydroquinoline-5-carboxylate | 770 mg, yield 30% | O=C1C(C(NC=2C=CC=C(C12)C(=O)OCC)C1=CC=CC=C1)C=1N(C=CN1)CCC | C24H25N3O3
